US03982011
4-(3-Cyclohexanepropionylamino)-benzoic acid was prepared as described in Example 3 from 10.0 g (0.073 mol) of p-aminobenzoic acid and 14.0 g (0.08 mol) of 3-cyclohexanepropionyl chloride.

reactant | p-aminobenzoic acid | 0.073 mol, 10.0 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 3-cyclohexanepropionyl chloride | 0.08 mol, 14.0 g | C1CC(CCC1)CCC(=O)Cl | C9H15ClO
product | 4-(3-Cyclohexanepropionylamino)-benzoic acid | C1CC(CCC1)CCC(=O)NC1=CC=C(C(=O)O)C=C1 | C16H21NO3
